US07981874B2
Tert-butyl [2-({4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzoyl}amino)-4-(2-thienyl)phenyl]carbamate (4.4 g, 7.95 mmol) and hydrazine (0.495 mL, 15.90 mmol) were stirred in refluxing EtOH (35 mL) for 5 hours. Room temperature was attained and the white precipitate removed by filtration and washed with EtOH. The filtrate was concentrated in vacuo and purified by MPLC (1-12.5% [MeOH+1% NH4OH]-DCM) to give tert-butyl [2-{[4-(aminomethyl)benzoyl]amino}-4-(2-thienyl)phenyl]carbamate as a white solid.

reactant | Tert-butyl [2-({4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzoyl}amino)-4-(2-thienyl)phenyl]carbamate | 7.95 mmol, 4.4 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C(=O)NC2=C(C=CC(=C2)C=2SC=CC2)NC(OC(C)(C)C)=O)C=C1 | C31H27N3O5S
reactant | hydrazine | 15.90 mmol, 0.495 mL | NN | H4N2
solvent | EtOH | 35 mL | CCO | C2H6O
product | tert-butyl [2-{[4-(aminomethyl)benzoyl]amino}-4-(2-thienyl)phenyl]carbamate | NCC1=CC=C(C(=O)NC2=C(C=CC(=C2)C=2SC=CC2)NC(OC(C)(C)C)=O)C=C1 | C23H25N3O3S
